US05707931
3-Acetyl-6-chloro-4-propargylamino-8-trifluoromethyl-2-quinolinone (24)
3-Acetyl-6-chloro-4-methylsulfoxy-8-trifluoromethyl-2-quinolinone (351 mg, 1 mmol) and propargylamine (55 mg, 1 mmol) were used and the reaction was carried out as in the above process of example 1 to obtain the desired product (284 mg, yield: 83%).

reactant | 3-Acetyl-6-chloro-4-methylsulfoxy-8-trifluoromethyl-2-quinolinone | 1 mmol, 351 mg | C(C)(=O)C=1C(NC2=C(C=C(C(=C2C1C)OS(=O)(=O)O)Cl)C(F)(F)F)=O | C13H9ClF3NO6S
reactant | propargylamine | 1 mmol, 55 mg | C(C#C)N | C3H5N
product | 3-Acetyl-6-chloro-4-propargylamino-8-trifluoromethyl-2-quinolinone | 284 mg, yield: 83% | C(C)(=O)C=1C(NC2=C(C=C(C=C2C1NCC#C)Cl)C(F)(F)F)=O | C15H10ClF3N2O2
